* jimi hendrix fuzz face - by J. Dunlop
*
* this netlist does not model the power-supply
* as in the original device. a zener and cap 
* were left out next to the "battery".
*
* input : V2     - pin 10
* output: R50/51 - pin 9
*
* Pots: 
*   R50+R51 = 500k [Vol]
*  R100+R101 = 1k [Fuzz]
*
*----------------------------------------------
*	SPICE 3 - NETLIST
.options

*------------- Models -------------------------
.model NPN     NPN(Is=1.0e-16)

*----------------------------------------------

V_V2 10 0 dc 0.0 file(gits.wav) snd(0 0 0.5 0 0 32)
R_R50 9 0 200k 
R_R51 3 9 300k 
R_R100 6 5 100 
R_R101 5 0 900 
R_R4 1 8 43k 
R_R6 4 11 10k 
C_C4 4 3 0.01u IC=0 
C_C6 5 0 1u 
Q_Q2 11 8 6 NPN 
R_R5 1 4 330 
Q_Q1 8 7 0 NPN 
C_C3 7 6 47p IC=0 
R_R3 7 6 68k 
C_C2 7 0 1n IC=0 
C_C1 2 10 2.2u 
R_R1 10 0 180k 
R_R2 2 7 100 
V_V1 1 0 dc 9.0 

*----------------------------------------------

*.sndparam /tmp/melon-fuzz8.wav 48000 wav32 1.0 0.0
**.sndparam git-fuzz9.wav 48000 wav32 3.5 0.0 2
**.sndprint tran v(10) v(9)
*.tran 2.0833333333333e-05 5.0 0 2.0833333333333e-05 
*.tran 1.3020833e-06 25.0 0 1.3020833e-06
*.tran 1.3020833e-06 7.5 0 1.3020833e-06

*.tran 2.6041666e-06 2.0 0 2.6041666e-06
* /16
*.tran 1.3020833e-06 3.0 0.1 1.3020833e-06
.tran 6.5104166e-07 3.0 0.1 6.5104166e-07 
*.tran 3.25520833e-07 3.0 0 3.25520833e-07
*.tran 1.627604166e-07 3.0 0 1.627604166e-07
*.tran 8.138020833e-08 0.5 0 8.138020833e-08
*.tran 4.069010416e-08 0.5 0 4.069010416e-08
.op

.control
if $?batchmode
else
  save v(10) v(9)
  sndparam $inputdir/git-fuzz9.wav 48000 wav32 3.5 0.0 2
  tran 6.5104166e-07 3.0 0.1 6.5104166e-07
*  tran 1.3020833e-06 3.0 0.1 1.3020833e-06
*  tran 2.0833333333333e-05 5.0 0 2.0833333333333e-05 
  rusage
  sndprint v(10) v(9)
  rusage time
end
.endc


.END
