* jimi hendrix fuzz face - by J. Dunlop
*
* this netlist does not model the power-supply
* as in the original device. a zener and cap 
* were left out next to the "battery".
*
* input : V2     - pin 10
* output: R50/51 - pin 9
*
* Pots: 
*   R50+R51 = 500k [Vol]
*  R100+R101 = 1k [Fuzz]
*
*----------------------------------------------
*	SPICE 3 - NETLIST
.options

*------------- Models -------------------------
.model NPN     NPN(Is=1.0e-16)

*----------------------------------------------

V_V2 10 0 dc 0.0 sine(0.0 0.3 440.0 0 0)
R_R50 9 0 400k 
R_R51 3 9 100k 
R_R100 6 5 950 
R_R101 5 0 50 
R_R4 1 8 43k 
R_R6 4 11 10k 
C_C4 4 3 0.01u IC=0 
C_C6 5 0 1u 
Q_Q2 11 8 6 NPN 
R_R5 1 4 330 
Q_Q1 8 7 0 NPN 
C_C3 7 6 47p IC=0 
R_R3 7 6 68k 
C_C2 7 0 1n IC=0 
C_C1 2 10 2.2u 
R_R1 10 0 180k 
R_R2 2 7 100 
V_V1 1 0 dc 9.0 

*----------------------------------------------

.print tran v(10) v(9)
.tran 2.0833333333333e-05 5.0 0 2.0833333333333e-05 
.op

.END
